US07700637B2
The title D compound, 2-{4-[2-(4-ethoxy-phenyl)-acetylamino]-benzenesulfonyl-amino}-benzoic acid methyl ester (189.1 mg, 0.356 mmol) is dissolved in 4 mL of THF and 1.07 mL of 1 N aqueous lithium hydroxide is added. The mixture is stirred at RT for 3 days and is then concentrated under a stream of nitrogen. The residue is taken up in warm water (20 mL) to give a clear solution. The solution is added slowly to 30 mL of 1 N aqueous HCl. The resulting precipitate is collected by filtration, washed with water, and dried under vacuum to give 2-{4-[2-(4-ethoxy-phenyl)-acetylamino]benzenesulfonylamino}benzoic acid: m.p. 241-242° C.: ESI-MS 455 [M+1]+.

reactant | 2-{4-[2-(4-ethoxy-phenyl)-acetylamino]-benzenesulfonyl-amino}-benzoic acid methyl ester | 0.356 mmol, 189.1 mg | COC(C1=C(C=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)NC(CC1=CC=C(C=C1)OCC)=O)=O | C24H24N2O6S
reactant | lithium hydroxide | 1 N, 1.07 mL | [OH-].[Li+]
reactant | HCl | 1 N, 30 mL | Cl | ClH
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 2-{4-[2-(4-ethoxy-phenyl)-acetylamino]benzenesulfonylamino}benzoic acid | C(C)OC1=CC=C(C=C1)CC(=O)NC1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=O)O)C=CC=C1 | C23H22N2O6S
